US04264599
The 2-phenyl-4-hydroxy-indole was synthesised from 4-oxo-2-phenyl-4,5,6,7-tetrahydroindole by aromatisation with palladium-on-charcoal in diphenyl ether and has a melting point of 120°-123° C.

reactant | 4-oxo-2-phenyl-4,5,6,7-tetrahydroindole | O=C1C=2C=C(NC2CCC1)C1=CC=CC=C1 | C14H13NO
solvent | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 2-phenyl-4-hydroxy-indole | C1(=CC=CC=C1)C=1NC2=CC=CC(=C2C1)O | C14H11NO
